US07723367B2
3-(4-Methyl-pyridin-2-yloxy)-benzonitrile
3-Hydroxy-benzonitrile was reacted with 2-fluoro-4-methylpyridine according to the method of Example 78A to provide the title compound. MS (DCI/NH3) m/z 211 (M+1)+.

reactant | 3-Hydroxy-benzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 2-fluoro-4-methylpyridine | FC1=NC=CC(=C1)C | C6H6FN
product | 3-(4-Methyl-pyridin-2-yloxy)-benzonitrile | CC1=CC(=NC=C1)OC=1C=C(C#N)C=CC1 | C13H10N2O
